US06451816B1
4-(1-Diphenylmethylpiperidin-4-yl)-butan-1-ol
120 g (620 mmol) 4-piperidin-4-yl-butan-1-ol hydrochloride are suspended in 400 ml 3,4-dihydro-2H-pyran and added to 1.5 g pyridinium tosylate and 5 ml 8 M methanolic hydrochloric acid. This is stirred for three hours and left to stand at RT overnight. After addition of 5 g potassium carbonate, this is concentrated under vacuum to dryness. The resulting 4-[4-tetrahydropyran-2-yloxy)-butyl]-piperidine is dissolved in 500 ml acetonitrile without further purification and added to 193 g (742 mmol) diphenylmethylbromide (95%) and 160 g (1157 mmol) potassium carbonate and stirred for three days at RT. The mixture is filtered and the filtrate is stirred for one day at RT with a further 20 g (76.8 mmol) diphenylmethylbromide (95%) and 16 g (115.8 mmol) potassium carbonate. The mixture is filtered and the solvent is removed under vacuum The resulting 1-diphenylmethyl-4-[4-(tetrahydropyran-2-yloxy)-butly]-piperldine is dissolved in 700 ml methanol without further purification, added to 120 ml conc. hydrochloric acid, and the mixture is left to stand for two days at RT. Subsequently, the solvent is removed under vacuum and the residue is taken up with 1500 ml water and extracted with 1500 ml acetic acid ethyl ester. The organic phase is discarded and the aqueous phase is adjusted to alkaline with sodium hydroxide and extracted with 700 ml acetic acid ethyl ester. After washing the organic phase with 200 ml water, this is dried over sodium sulfate and the solvent is removed under vacuum. The brown oil is dried under high-vacuum and processed further without purification. Yield: 145 g (72%).

reactant | 4-piperidin-4-yl-butan-1-ol hydrochloride | 620 mmol, 120 g | Cl.N1CCC(CC1)CCCCO
reactant | pyridinium tosylate | 1.5 g | S(=O)(=O)([O-])C1=CC=C(C)C=C1.[NH+]1=CC=CC=C1
reactant | hydrochloric acid | 8 M, 5 ml | Cl | ClH
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
reactant | diphenylmethylbromide | 742 mmol, 193 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)Br | C13H11Br
reactant | potassium carbonate | 1157 mmol, 160 g | C([O-])([O-])=O.[K+].[K+]
reactant | diphenylmethylbromide | 76.8 mmol, 20 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)Br | C13H11Br
reactant | potassium carbonate | 115.8 mmol, 16 g | C([O-])([O-])=O.[K+].[K+]
solvent | 3,4-dihydro-2H-pyran | 400 ml | O1CCCC=C1 | C5H8O
product | 4-(1-Diphenylmethylpiperidin-4-yl)-butan-1-ol | C1(=CC=CC=C1)C(N1CCC(CC1)CCCCO)C1=CC=CC=C1 | C22H29NO
